US08003785B2
To a solution of 1.0 g (0.0028 mole) of 2-chloro-7,7-difluoro-9-(3-phenyl-propyl)-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VI-281) in 20 mL of dimethylformamide was added 1.4 g (0.0042 mole) of cesium carbonate, followed by 0.53 mL (0.0084 mole) of iodomethane. After stirring four hours, the mixture filtered and then concentrated under reduced pressure. Ice water and dichloromethane were added. The mixture was extracted with dichloromethane twice. The combined organic layers were washed three times with sodium carbonate, three times with brine, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure to give 0.98 g of 2-chloro-7,7-difluoro-5-methyl-9-(3-phenyl-propyl)-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VII-281) as a yellow oil.

reactant | 2-chloro-7,7-difluoro-9-(3-phenyl-propyl)-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.0028 mole, 1.0 g | ClC=1N=CC2=C(N(CC(C(N2)=O)(F)F)CCCC2=CC=CC=C2)N1 | C16H15ClF2N4O
reactant | cesium carbonate | 0.0042 mole, 1.4 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodomethane | 0.0084 mole, 0.53 mL | IC | CH3I
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 2-chloro-7,7-difluoro-5-methyl-9-(3-phenyl-propyl)-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.98 g | ClC=1N=CC2=C(N(CC(C(N2C)=O)(F)F)CCCC2=CC=CC=C2)N1 | C17H17ClF2N4O
